US04705902
The present commercial process for manufacturing 1,1-bis(chlorophenyl)-2,2,2-trichloroethanol (dicofol) uses 1,1-bis(chlorophenyl)-2,2,2-trichloroethane (DDT) as the starting material. DDT is dehydrohalogenated with alkali to afford 1,1-bis(chlorophenyl)dichloroethylene, which is chlorinated to afford 1,1-bis(chlorophenyl)-1,2,2,2-tetrachloroethane.

reactant | 1,1-bis(chlorophenyl)-2,2,2-trichloroethanol | ClC1=C(C=CC=C1)C(C(Cl)(Cl)Cl)(O)C1=C(C=CC=C1)Cl | C14H9Cl5O
reactant | 1,1-bis(chlorophenyl)-2,2,2-trichloroethane | ClC1=C(C=CC=C1)C(C(Cl)(Cl)Cl)C1=C(C=CC=C1)Cl | C14H9Cl5
reactant | DDT | C1=CC(=CC=C1C(C=2C=CC(=CC2)Cl)C(Cl)(Cl)Cl)Cl | C14H9Cl5
product | 1,1-bis(chlorophenyl)dichloroethylene | ClC1=C(C=CC=C1)C(=C(Cl)Cl)C1=C(C=CC=C1)Cl | C14H8Cl4
